US08835432B2
2-((S)-1-(1,3-dioxoisoindolin-2-yl)ethyl)-3-(2-(methylsulfonyl)phenyl)-quinoxaline-5-carbonitrile
A 5 L three-necked round-bottomed flask equipped with a condenser, nitrogen inlet, overhead stirrer and thermocouple was charged with 2-((1S)-1-(5-chloro-3-(2-(methylsulfonyl)phenyl)quinoxalin-2-yl)ethyl)isoindoline-1,3-dione (400 g, 813 mmol), dicyanozinc (143 g, 1.22 mol) and 1,4-dioxane (4.0 L). The solution was stirred vigorously and degassed with Ar for 1 h. To the solution was then added XPhos precatalyst (66.1 g, 89 mmol). The mixture was then degassed with Ar for 1 h and heated to 90° C. The reaction was monitored by LC, and deemed complete after 8 h. The reaction was cooled to rt (20-21° C.) and divided into two batches. For each batch, EtOAc (2.0 L), NaHCO3 (400 mL) and water (400 mL) were added. The mixture was stirred for 10 min and a precipitate formed. The precipitates were filtered to afford the pure product as a white solid 201.5 g. The mother liquor was washed with brine (800 mL) and the organic layer concentrated to afford the crude product ˜400 g. The crude material was then slurried in EtOAc (1.2 L) for 30 min at rt. The solid was filtered, washed with EtOAc (2×400 mL) and dried to afford the product as a tan solid 220 g. All the solids were combined, dried on a glass frit under mild vacuum and a stream of N2 for 2 days to afford the product as white solid 378 g with 99.6% LC purity and 96% yield. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.47-8.68 (m, 2H), 7.66-8.19 (m, 7H), 7.52 (dd, J=5.5, 3.0 Hz, 1H), 7.22-7.40 (m, 1H), 5.61-5.95 (m, 1H), 3.11-3.27 (m, 3H), 1.68-1.93 (m, 3H) Mass Spectrum (ESI) m/z=483.0 (M+1).

reactant | 2-((1S)-1-(5-chloro-3-(2-(methylsulfonyl)phenyl)quinoxalin-2-yl)ethyl)isoindoline-1,3-dione | 813 mmol, 400 g | ClC1=C2N=C(C(=NC2=CC=C1)[C@H](C)N1C(C2=CC=CC=C2C1=O)=O)C1=C(C=CC=C1)S(=O)(=O)C | C25H18ClN3O4S
reactant | dicyanozinc | 1.22 mol, 143 g | C(#N)[Zn]C#N
catalyst | XPhos precatalyst | 89 mmol, 66.1 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=CC=CC=C2P(C3CCCCC3)C4CCCCC4)C(C)C.C1=CC=C([C-]=C1)CCN.Cl[Pd+]
solvent | 1,4-dioxane | 4.0 L | O1CCOCC1 | C4H8O2
product | 2-((S)-1-(1,3-dioxoisoindolin-2-yl)ethyl)-3-(2-(methylsulfonyl)phenyl)-quinoxaline-5-carbonitrile | 201.5 g | O=C1N(C(C2=CC=CC=C12)=O)[C@@H](C)C1=NC=2C=CC=C(C2N=C1C1=C(C=CC=C1)S(=O)(=O)C)C#N | C26H18N4O4S
